US05047534
The 1,3-di-n-propyl-5-nitroso-6-aminouracil (61.6 g) was suspended in lL of water, and the suspension was made alkaline to pH 11 with 50% ammonium hydroxide and treated with 100 g of sodium dithionite, in portions, until the purple color faded. The aqueous mixture was extracted with chloroform (8×200 ml), dried over magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography (5/10% methanol/chloroform) and recrystallized from 10% isopropanol in hexane and recrystallized from 10% isopropanol to yield 37.29 g of 1,3-di-n-propyl-5,6-diaminouracil, m.p., 127°-128° C.

reactant | 1,3-di-n-propyl-5-nitroso-6-aminouracil | 61.6 g | C(CC)N1C(=O)N(C(=O)C(=C1N)N=O)CCC | C10H16N4O3
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | sodium dithionite | 100 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 1,3-di-n-propyl-5,6-diaminouracil | 37.29 g | C(CC)N1C(=O)N(C(=O)C(=C1N)N)CCC | C10H18N4O2
